US03956374
4-(m-Chlorobenzyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
p-Chlorobenzaldehyde (3.5 g., 0.025 mole) in ethanol (10 ml.) is added to a solution of 4-(m-chlorobenzyl)-4-phenyl-5-oxohexanoic acid (4.89 g., 0.015 mole) and sodium hydroxide (0.8 g., 0.02 mole) in water (50 ml.). The resulting mixture is heated on a steam bath for 24 hours. The reaction solution is cooled to room temperature, diluted with water (200 ml.) and extracted with ether to remove the excess p-chlorobenzaldehyde. Ether is expelled from the aqueous phase by warming. The solution is cooled in an ice bath, acidified with dilute hydrochloric acid (10 ml.), and the white solid which precipitates is collected and air-dried to yield 5.05 g., m.p. 65°-130°C. Several recrystallizations from n-butyl chloride and petroleum ether (30°-60°C.) give a material with m.p. 137°-139°C.

reactant | p-Chlorobenzaldehyde | 0.025 mole, 3.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-(m-chlorobenzyl)-4-phenyl-5-oxohexanoic acid | 0.015 mole, 4.89 g | ClC=1C=C(CC(CCC(=O)O)(C(C)=O)C2=CC=CC=C2)C=CC1 | C19H19ClO3
reactant | sodium hydroxide | 0.02 mole, 0.8 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-(m-Chlorobenzyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | ClC=1C=C(CC(CCC(=O)O)(C(C=CC2=CC=C(C=C2)Cl)=O)C2=CC=CC=C2)C=CC1 | C26H22Cl2O3
